US04255333
408 parts of 2-methyl-2-hydroxy-butan-3-one, 558 parts of aniline and 20 parts of acetic acid in 650 parts of toluene are heated, with removal of water from the system, until no more water separates off. The volatile constituents are then distilled off until the internal temperature reaches 220° C. The distillate can be re-used, without further treatment, in a subsequent batch. The residue is kept for 5 hours at 220° C. and is then cooled to 160° C., and 40 parts of concentrated hydrochloric acid are added. After heating for a further three hours, during which the water formed distils off, the reaction is complete. The product is either directly processed further or distilled. 498 parts of 2,3,3-trimethyl-indolenine are obtained, corresponding to 78.5% of theory, based on 2-methyl-2-hydroxy-butan-3-one.

reactant | 2-methyl-2-hydroxy-butan-3-one | CC(C)(C(C)=O)O | C5H10O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2,3,3-trimethyl-indolenine | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
